US07157464B2
Synthesis of 2-(3,5-Bis-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone
Protocol T was followed using 3,5-Bis-trifluoromethyl-1H-pyrazole, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1/1) afforded the title compound as a white solid. 1H NMR (400 MHz, CDCl3): 6.94–7.0 (m, 2H), 6.92 (s, 1H), 6.82–7.90 (dd, 2H), 5.2 (s, 2H), 3.72–3.8 (t, 2H), 3.58–3.66 (t, 2H), 3.12–3.18 (t, 2H), 3.02–3.12 (t, 2H). 13C NMR (400 MHz, CDCl3): 162.2, 158.2, 156.4, 146.5, 118.4, 116.2, 115.8, 113.2, 60.4, 53.2, 50.6, 50.2, 45.2, 42.2, 21.2, 14.2.

reactant | 3,5-Bis-trifluoromethyl-1H-pyrazole | FC(C1=NNC(=C1)C(F)(F)F)(F)F | C5H2F6N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-(3,5-Bis-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | FC(C1=NN(C(=C1)C(F)(F)F)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)F)(F)F | C17H15F7N4O
